US05696151
A first solution of 2-methyl-3-furancarboxylic chloride (13.57 g) in methylene chloride (94 mL) was stirred in an ice/salt bath. A second solution of 4-chloro-3-(3-methyl-2-butenyloxy)benzenamine (19.8 g), triethylamine (14 mL) in methylene chloride (94 mL) was added to the first solution at such a rate that the temperature was maintained at -5° C. to 0° C. When the addition was complete, the resultant reaction mixture was stirred to ambient temperature and left stirring for 15 hours. Water was added to the reaction mixture and then the organic layer separated and washed successively with water, dilute hydrochloric acid, water, aqueous sodium bicarbonate, and water. After drying (MgSO4), the solvent was removed from the washed organic layer and the residue was recrystallised from isopropyl alcohol to give N-[4-chloro-3-(3-methyl-2-butenyloxy)phenyl-2-methyl-3-furancarboxamide, a white solid, 17 g. A second crop of beige crystals, 7.6 g, was also obtained.

reactant | 2-methyl-3-furancarboxylic chloride | 13.57 g | CC=1OC=CC1C(=O)Cl | C6H5ClO2
reactant | 4-chloro-3-(3-methyl-2-butenyloxy)benzenamine | 19.8 g | ClC1=C(C=C(C=C1)N)OCC=C(C)C | C11H14ClNO
reactant | triethylamine | 14 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | methylene chloride | 94 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 94 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-3-(3-methyl-2-butenyloxy)phenyl-2-methyl-3-furancarboxamide | ClC1=C(C=C(C=C1)C=1C(=C(OC1)C)C(=O)N)OCC=C(C)C | C17H18ClNO3
